US06423704B1
1-[(R)-3-(2-{4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-[2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-phenyl]-methanone
To a mixture of 2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-benzoic acid (0.27 g, 0.42 mmol), 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride (0.23 g, 0.42 mmol), 1-hydroxybenzotriazole hydrate (0.068 g, 0.51 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.97 g, 0.51 mmol), add via syringe under argon anhydrous dichloromethane (15 mL). Add diisopropylethylamine (0.22 mL, 1.26 mmol) and stir at room temperature for 20 hours. Dilute with dichloromethane and wash twice with water. Wash with saturated NaHCO3 solution, dry (MgSO4) the organic phase, filter and concentrate to an oil. Purify the oil by flash chromatography (silica gel, 3.5×15.2 cm) eluting with dichloromethane and then with 10% methanol in dichloromethane. Concentrate the appropriate fractions to afford 0.051 g of the title compound, Rf=0.26 (silica gel, 10% methanol in dichloromethane). The compound may be converted to the dihydrochloride salt by methods well known in the art.

reactant | 2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-benzoic acid | 0.42 mmol, 0.27 g | COC1=C(C(=O)O)C=C(C=C1)N1C(=NN=C1)SC | C11H11N3O3S
reactant | 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride | 0.42 mmol, 0.23 g | Cl.Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CNCC2)C2=CC=CC=C2
reactant | 1-hydroxybenzotriazole hydrate | 0.51 mmol, 0.068 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.51 mmol, 0.97 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylethylamine | 1.26 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(R)-3-(2-{4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-[2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-phenyl]-methanone | 0.051 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CN(CC2)C(=O)C2=C(C=CC(=C2)N2C(=NN=C2)SC)OC)C2=CC=CC=C2 | C39H48N8O3S
